US07282512B2
[1-(4-Fluorobenzyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate was prepared as in example 9j except that [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate was substituted for (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 8.90 (d, J=7 Hz, 1H), 7.07-7.38 (m, 10H), 6.28 (m, 1H), 5.01 (qnt, J=7 Hz, 1H), 4.83 (m, 1H), 3.81 (s, 2H), 3.54 (m, 4H), 3.26 (m, 4H), 3.04 (m, 2H), 2.77 (s, 2H), 1.80-1.90 (m, 6H), 1.19-1.48 (m, 9H). ES-LCMS m/z 633 (M+Na). HRMS C33H43N4O6F1 m/z 633.3064 (M+Na)Cal; 633.3072 (M+Na)Obs.

reactant | [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O | C33H45FN4O6
reactant | (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCCCC1)CC1=CC=CC=C1)=O | C35H50N4O6
product | [1-(4-Fluorobenzyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | N1(CCOCC1)C(=O)NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)=O)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O | C33H43FN4O6
